US06562849B1
1-(4-Chlorophenyl)-3-[4-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]urea (exemplification compound number 1-235)
To a mixture of 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.4 g) and N,N-dimethylformamide (10 ml) was added 4-chlorophenyl isocyanate (0.15 g) and the mixture was stirred at room temperature for 1 hour and allowed to stand overnight. The reaction mixture was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. To the residue was added diethyl ether. The precipitate was isolated by filtration and recrystallized from a mixture of tetrahydrofuran and ethyl acetate to afford the title compound (0.37 g, mp 157-162° C.).

reactant | 5-[4-[6-[2-(4-aminophenyl)ethoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.4 g | NC1=CC=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C27H26N4O4S
reactant | 4-chlorophenyl isocyanate | 0.15 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chlorophenyl)-3-[4-(2-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]ethyl)phenyl]urea | 0.37 g | ClC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)CCOC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1 | C34H30ClN5O5S
